US05580866
A solution of aniline (4.8 ml) in dry ethanol (10 ml) was added dropwise at room temperature to a stirred solution of 3,6-dichloro-2,5-dihydro-1,4-benzothiazepine (2.5 g) in dry ethanol (65 ml). The reaction mixture was heated under reflux for 91/2 hours, cooled to room temperature, filtered and the solvent was removed from the filtrate by evaporation at reduced pressure. The oily residue was separated into fractions by chromatography on a silica gel support using chloroform/ethanol (50:1) as eluent. Purification of those fractions containing the product by flash chromatography using ethyl acetate/hexane (2:3) as eluent gave 6-chloro-3-phenylimino-2,3,4,5-tetrahydro-1,4-benzothiazepine, which was recrystallised from ethyl acetate/hexane. Yield 0.27 g (m.p. 150°-152° C.).

reactant | aniline | 4.8 ml | NC1=CC=CC=C1 | C6H7N
reactant | 3,6-dichloro-2,5-dihydro-1,4-benzothiazepine | 2.5 g | ClC=1CSC2=C(CN1)C(=CC=C2)Cl | C9H7Cl2NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | 6-chloro-3-phenylimino-2,3,4,5-tetrahydro-1,4-benzothiazepine | ClC1=CC=CC2=C1CNC(CS2)=NC2=CC=CC=C2 | C15H13ClN2S
